US08304556B2
B-20a) N′-(1-Ethyl-propylidene)-hydrazinecarboxylic acid tert-butyl ester
B-20a is prepared analogously to B-19a starting from 3-pentanone (1.23 mL, 11.6 mmol) and tert-butylcarbazate (1.53 g, 11.6 mmol). Yield: 2.26 g.

reactant | 3-pentanone | 11.6 mmol, 1.23 mL | CCC(CC)=O | C5H10O
reactant | tert-butylcarbazate | 11.6 mmol, 1.53 g | C(C)(C)(C)OC(NN)=O | C5H12N2O2
product | N′-(1-Ethyl-propylidene)-hydrazinecarboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)NN=C(CC)CC | C10H20N2O2
